US04959482
Trimethyl sulphoxonium iodide (5.9 g, 27 mmol) was added to 5.2 g (45 mmol) of 35% potassium hydride in an oil dispersion (previously washed with pentane) in 25 ml of tetrahydrofuran at 0° C. Ten minutes later, 5.2 g (18 mmol) of N-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-butenamide dissolved in 100 ml of tetrahydrofuran was added and the mixture was allowed to warm to room temperature. Twenty four hours later, 10 ml of ethanol was added and the mixture was made acidic by the addition of 1N hydrochloric acid. The acidic mixture was concentrated to 50 ml, diluted with 100 ml of ethyl acetate and 50 ml of water and the organic phase was separated, dried over anhydrous magnesium sulfate and concentrated to a solid. The solid was chromatographed on silica gel with methylene chloride and triturated in pentane to afford 0.76 g of 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-methylpyrrolidin-2-one, mp 157°-159° C.

reactant | Trimethyl sulphoxonium iodide | 27 mmol, 5.9 g | [I-].C[S+](=O)(C)C
reactant | potassium hydride | 45 mmol, 5.2 g | [H-].[K+]
reactant | N-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-butenamide | 18 mmol, 5.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(C=CC)=O | C18H27NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-methylpyrrolidin-2-one | 0.76 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)N1C(CC(C1)C)=O | C19H29NO2
